* PEM produced on Do 10. Sep 16:30:06 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from comp_nmos_pex.ext - technology: ihp-sg13cmos5l

.subckt comp_nmos_pex out - + VDD Ibias VSS
M0 VDD a_n406_62# a_n406_62# VDD sg13_hv_pmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.4u
M1 a_118_854# a_n406_62# VDD VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.4u
M2 VSS.t1 Ibias Ibias VSS.t0 sg13_hv_nmos ad=0.408p pd=3.08u as=0.408p ps=3.08u w=1.2u l=1.5u
M3 out Ibias VSS.t3 VSS.t4 sg13_hv_nmos ad=0.816p pd=5.48u as=0.456p ps=2.78u w=2.4u l=1.5u
M4 a_n38_62# - a_n406_62# VSS.t5 sg13_hv_nmos ad=0.228p pd=1.58u as=0.408p ps=3.08u w=1.2u l=1.5u
M5 VSS.t3 Ibias a_n38_62# VSS.t2 sg13_hv_nmos ad=0.456p pd=2.78u as=0.816p ps=5.48u w=2.4u l=1.5u
M6 VDD a_118_854# out VDD sg13_hv_pmos ad=0.68p pd=4.68u as=0.68p ps=4.68u w=2u l=0.4u
M7 a_118_854# + a_n38_62# VSS.t2 sg13_hv_nmos ad=0.408p pd=3.08u as=0.228p ps=1.58u w=1.2u l=1.5u
R0 VSS.t0 VSS.n2 25.8176
R1 VSS.t2 VSS.n2 18.1416
R2 VSS.t4 VSS.n3 18.3968
R3 VSS.n6 VSS.n20 0.213227
R4 VSS.n4 VSS.n24 17.0005
R5 VSS.n2 VSS.n8 17.0005
R6 VSS.n2 VSS.n9 17.0005
R7 VSS.t1 VSS.n16 17.0005
R8 VSS.t1 VSS.n15 17.0005
R9 VSS.n17 VSS.t1 17.0005
R10 VSS.n2 VSS.n3 0.00135673
R11 VSS.n3 VSS.n4 0.00682233
R12 VSS.n5 VSS.n20 0.740682
R13 VSS.n4 VSS.n22 8.48642
R14 VSS.n2 VSS.n14 8.48642
R15 VSS.n5 VSS.n2 0.265694
R16 VSS.n2 VSS.n7 1.35859
R17 VSS.n25 VSS.n2 4.2505
R18 VSS.n2 VSS.n13 3.37793
R19 VSS.n7 VSS.n22 0.209466
R20 VSS.n2 VSS.n6 1.14335
R21 VSS.n2 VSS.n10 1.84232
R22 VSS.n2 VSS.n12 1.65363
R23 VSS.n2 VSS.n19 1.04352
R24 VSS.n18 VSS.n5 1.25744
R25 VSS.n2 VSS.n0 0.886426
R26 VSS.n2 VSS.n1 0.883526
R27 VSS.n21 VSS.t3 0.797094
R28 VSS.n19 VSS.n18 0.587864
R29 VSS.n19 VSS.n17 0.357507
R30 VSS.n1 VSS.t3 0.269173
R31 VSS.n0 VSS.t3 0.263413
R32 VSS.n16 VSS.n10 0.245527
R33 VSS.n20 VSS.n1 0.175132
R34 VSS.n11 VSS.n0 0.169438
R35 VSS.n12 VSS.n11 0.137836
R36 VSS.n23 VSS.n12 0.136039
R37 VSS.n21 VSS.n6 0.22877
R38 VSS.n18 VSS.n7 0.178302
R39 VSS.n21 VSS.n13 0.0892679
R40 VSS.n23 VSS.n13 0.0888084
R41 VSS.n11 VSS.n10 0.0738022
R42 VSS.n22 VSS.n14 0.0598372
R43 VSS.n24 VSS.n23 0.0331562
R44 VSS.n24 VSS.n14 0.0301686
R45 VSS.n16 VSS.n9 0.028257
R46 VSS.n17 VSS.n8 0.028257
R47 VSS.n25 VSS.t3 0.0214
R48 VSS.n15 VSS.n9 0.0190047
R49 VSS.n15 VSS.n8 0.0190047
R50 VSS VSS.n25 0.0115
R51 VSS.n2 VSS.t5 18.4449
C0 a_n406_62# a_118_854# 0.17537f
C1 a_n38_62# Ibias 0.57524f
C2 a_n38_62# a_118_854# 0.05227f
C3 Ibias a_118_854# 0.17664f
C4 - + 0.21528f
C5 a_n406_62# - 0.69814f
C6 + out 0.02106f
C7 a_n38_62# - 0.4665f
C8 Ibias - 0.01127f
C9 a_n406_62# out 0.01551f
C10 a_n38_62# out 0.17218f
C11 Ibias out 0.80742f
C12 a_118_854# out 0.63391f
C13 + VDD 0.0467f
C14 a_n406_62# VDD 2.39419f
C15 a_n38_62# VDD 0.0105f
C16 Ibias VDD 0.04202f
C17 a_118_854# VDD 1.983f
C18 a_n406_62# + 0.01638f
C19 - VDD 0.04374f
C20 a_n38_62# + 0.46614f
C21 Ibias + 0.24552f
C22 out VDD 0.67524f
C23 a_118_854# + 0.67f
C24 a_n38_62# a_n406_62# 0.05466f
C25 out VSS 1.64359f
C26 VDD VSS 1.74571f
C27 a_n38_62# VSS 2.2421f
C28 a_118_854# VSS 0.49394f
C29 a_n406_62# VSS 0.5607f
C30 VSS.t1 VSS 2.58992f
.ends

